US08470831B2
(E)-3-(4-Amino-3-hydroxy-phenyl)-acrylic acid ethyl ester (236 g, 13.3 mmol) was suspended in HCl solution (6N, 4 ml), and sodium nitrite solution in water (960 mg, 14 mmol) was added at 0° C. The resulting suspension was added at 0° C. to a solution of copper (I) chloride (2 g, 16 mmol) in concentrated HCl (4 ml). The mixture was slowly warmed to RT and heated to 60° C. for 30 min., shaking occasionally. Then it was cooled to RT, diluted with water and extracted with DCM, which was dried and evaporated. The residue was purified by silica gel column chromatography, eluant petroleum ether/AcOEt 90:10, to give 1.46 g of (E)-3-(4-chloro-3-hydroxy-phenyl)-acrylic acid ethyl ester as a white solid.

reactant | (E)-3-(4-Amino-3-hydroxy-phenyl)-acrylic acid ethyl ester | 13.3 mmol, 236 g | C(C)OC(\C=C\C1=CC(=C(C=C1)N)O)=O | C11H13NO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | HCl | 6N, 4 ml | Cl | ClH
reactant | HCl | 4 ml | Cl | ClH
solvent | water | O | H2O
catalyst | copper (I) chloride | 16 mmol, 2 g | [Cu]Cl
solvent | water | 14 mmol, 960 mg | O | H2O
product | (E)-3-(4-chloro-3-hydroxy-phenyl)-acrylic acid ethyl ester | 1.46 g | C(C)OC(\C=C\C1=CC(=C(C=C1)Cl)O)=O | C11H11ClO3
